US06500828B1
b) 3-(2,6-Difluorophenyl)-7-(1,1-dimethylethyl)-6-(2-ethyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine
This compound was prepared from 6-chloro-3-(2,6-difluorophenyl)-7-(1,1-dimethylethyl)-1,2,4-triazolo[4,3-b]pyridazine and (2-ethyl-2H-1,2,4-triazol-3-yl)methanol following the procedure (sodium hydride, DMF) described in WO 98/04559. Data for the title compound: m.p. 182° C.; 1H NMR (400 MHz, CDCl3) δ1.39-1.45 (12H, m), 4.10-4.16 (2H, m), 5.46 (2H, s), 7.09-7.15 (2H, m), 7.52-7.59 (1H, m), 7.92 (1H, s), 8.00 (1H, s); MS (ES30) m/e 414 [MH]+; Anal. Found: C, 58.19; H, 5.05; N, 23.80%. C20H21F2N7O requires: C, 58.10; H, 5.12; N, 23.72%.

reactant | 6-chloro-3-(2,6-difluorophenyl)-7-(1,1-dimethylethyl)-1,2,4-triazolo[4,3-b]pyridazine | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2F)F)C(C)(C)C | C15H13ClF2N4
reactant | (2-ethyl-2H-1,2,4-triazol-3-yl)methanol | C(C)N1N=CN=C1CO | C5H9N3O
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2,6-Difluorophenyl)-7-(1,1-dimethylethyl)-6-(2-ethyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine | FC1=C(C(=CC=C1)F)C1=NN=C2N1N=C(C(=C2)C(C)(C)C)OCC=2N(N=CN2)CC | C20H21F2N7O
